US09126993B2
N-(naphthalen-1-yl)-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide
Using general procedure A, 1-isocyanatonaphthalene (208 mg, 1.23 mmol) and 1,4-diazabicyclo[3.2.2]nonane gave the title compound as a white solid (150 mg, 48%). 1H NMR (400 MHz, CDCl3) δ 7.80-7.72 (m, 2H), 7.64 (d, J=8.0 Hz, 1H), 7.56 (d, J=8.0 Hz, 1H), 7.44-7.35 (m, 3H), 6.65 (br s, 1H), 4.18 (br s, 1H), 3.64 (t, J=8.0 Hz, 2H), 3.09-2.91 (m, 6H), 2.08-1.93 (m, 2H) 1.74-1.66 (m, 2H) ppm. 13C NMR (100 MHz, CDCl3) δ 155.3, 134.4, 134.3, 128.9, 128.2, 126.2, 126.1, 126.0, 125.1, 121.2, 121.0, 57.6, 48.7, 46.4, 46.4, 42.2, 27.6, 27.6 ppm. Purity: >99% UPLCMS (210 nm); retention time 0.53 min; (M+1) 296.

reactant | 1-isocyanatonaphthalene | 1.23 mmol, 208 mg | N(=C=O)C1=CC=CC2=CC=CC=C12 | C11H7NO
reactant | 1,4-diazabicyclo[3.2.2]nonane | N12CCNC(CC1)CC2 | C7H14N2
product | N-(naphthalen-1-yl)-1,4-diazabicyclo[3.2.2]nonane-4-carboxamide | 150 mg, 48% | C1(=CC=CC2=CC=CC=C12)NC(=O)N1CCN2CCC1CC2 | C18H21N3O
